US05124486
Aluminium chloride (60.6 g, 0.454 moles) Was added to 1,2-dichloroethane (200 ml) and the mixture cooled to about 0° C. Propanoyl chloride (40 g, 0.432 moles) was then added over a period of 20 minutes and the temperature of the reaction mixture allowed to rise to 20° C. to give a clear pale orange solution. This solution was stirred for 30 minutes and ethene (12 g, 0.432 moles) was then bubbled into the solution over a period of about 11/2 hours. The mixture was then quenched in a mixture of concentrated hydrochloric acid (65 ml) and ice (330 ml) and the organic phase separated and backwashed with water (2×50 ml). 2-Methylpropanal (22 g, 0.3 moles) and para-toluenesulphonic acid (1.65 g, 8.64 mmoles) were then added and the mixture refluxed with azeotropic water removal until no more water separated. The organic phase was then washed with 10% (w/v) sodium hydroxide (200 ml) and the solvent removed. Distillation gave 30 g 2,4,4-trimethylcyclohex-2-en-1-one, b.pt. 40° C. at 0.3 mm Hg. (Yield: 72%)

reactant | Aluminium chloride | 0.454 moles, 60.6 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | Propanoyl chloride | 0.432 moles, 40 g | C(CC)(=O)Cl | C3H5ClO
reactant | ethene | 0.432 moles, 12 g | C=C | C2H4
reactant | 2-Methylpropanal | 0.3 moles, 22 g | CC(C=O)C | C4H8O
catalyst | para-toluenesulphonic acid | 8.64 mmoles, 1.65 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | water | O | H2O
solvent | 1,2-dichloroethane | 200 ml | ClCCCl | C2H4Cl2
product | 2,4,4-trimethylcyclohex-2-en-1-one | 30 g, Yield: 72% | CC=1C(CCC(C1)(C)C)=O | C9H14O
